US07842324B2
tert-butyl 1-(biphenyl-4-yl)-2-(isobutylamino)-2-oxoethylcarbamate
Prepared in a similar manner to Example 20 from 2-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)acetic acid and isobutyl amine. Yield: 55%. 1H NMR (400 MHz, dMSO): δ 0.76-0.78 (d, 6H), 1.38 (s, 9H), 1.63-1.66 (m, 1H), 2.84-2.92 (m, 2H), 5.30-5.22 (d, 1H), 7.25-7.27 (d, 1H), 7.35-7.37 (m, 1H), 7.43-7.51 (m, 4H), 7.61-7.66 (m, 4H), 8.14-8.17 (t, 1H); MS+H (383).

reactant | 2-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)acetic acid | C1(=CC=C(C=C1)C(C(=O)O)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C19H21NO4
reactant | isobutyl amine | C(C(C)C)N | C4H11N
product | tert-butyl 1-(biphenyl-4-yl)-2-(isobutylamino)-2-oxoethylcarbamate | Yield: 55% | C1(=CC=C(C=C1)C(C(=O)NCC(C)C)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C23H30N2O3
